US06897224B2
3-[1-(5-Fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-(hydroxymethyl)quinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol
Analogously to Example 40, 200 mg (0.41 mmol) of 5-{3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-hydroxy-2-(trifluoromethyl)propylidenamino}-quinoline-2-carboxylic acid methyl ester is reacted with 156 mg (4.1 mmol) of sodium borohydride. After working-up and purification on silica gel with hexane-ethyl acetate (0-75%), 119 mg (63% of theory) of the product is obtained.

reactant | 5-{3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-hydroxy-2-(trifluoromethyl)propylidenamino}-quinoline-2-carboxylic acid methyl ester | 0.41 mmol, 200 mg | COC(=O)C1=NC2=CC=CC(=C2C=C1)N=CC(CC1(CC1)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O | C25H22F4N2O4
reactant | sodium borohydride | 4.1 mmol, 156 mg | [BH4-].[Na+]
product | 3-[1-(5-Fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-(hydroxymethyl)quinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol | FC=1C=CC(=C(C1)C1(CC1)CC(CNC1=C2C=CC(=NC2=CC=C1)CO)(O)C(F)(F)F)OC | C24H24F4N2O3
